US05801272
Methyl (R)-2-(4-hydroxyphenoxy)propionate
A mixture of 45 g (189 mmol) of methyl (R)-2-(4-acetoxyphenoxy)propionate (enantiomeric excess 94-95%), 135 ml of methanol and 2.5 ml of methanol saturated with gaseous hydrogen chloride was refluxed for 5 h and subsequently concentrated. The crude product was purified by distillation at 140° C. under 0.1 mbar. Yield: 96% (94-95% enantiomeric excess).

reactant | methyl (R)-2-(4-acetoxyphenoxy)propionate | 189 mmol, 45 g | C(C)(=O)OC1=CC=C(O[C@@H](C(=O)OC)C)C=C1 | C12H14O5
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2.5 ml | CO | CH4O
solvent | methanol | 135 ml | CO | CH4O
product | Methyl (R)-2-(4-hydroxyphenoxy)propionate | Yield: 96% | OC1=CC=C(O[C@@H](C(=O)OC)C)C=C1 | C10H12O4
